US04423047
2-Propargylthio-5-chloropyrimidine
A mixture of 5-chloropyrimidine-2-thione (5 mmol) and triethylamine (5 mmol) was stirred together in dichloromethane (40 ml) for 5 min before propargyl bromide (6 mmol) was added. The mixture was stirred at room temperature for 1 h before the solvent was evaporated. The residue was triturated with water (20 ml), and the solid recrystallized from methanol; yield 87%, m.p. 66° C. 1H NMR (CDCl3): δ2.16 (HC≡, t, J 2 Hz), 3.88 (CH2, d, J 2 Hz), 8.80 (H-4, H-6). IR (KBr): 3300 Cm-1 (HC≡).

reactant | 5-chloropyrimidine-2-thione | 5 mmol | ClC=1C=NC(NC1)=S | C4H3ClN2S
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | propargyl bromide | 6 mmol | C(C#C)Br | C3H3Br
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-Propargylthio-5-chloropyrimidine | yield 87% | C(C#C)SC1=NC=C(C=N1)Cl | C7H5ClN2S
